US05872118
f) Preparation of (E)-2-(4,6-difluoro-1-indanylidene)acetyl Chloride
A suspension of (E)-2-(4,6difluoro-1-indanylidene)acetic Acid (5.49 g, 0.026 mol) in a mixture of dichloromethane: dimethylformamide (50 mL: 5 drops) was treated with oxalyl chloride (6.6 g 0.052 mol, Aldrich) and allowed to stir at ambient temperature for 18 h. The resulting solution was concentrated in vacuo and the residue used without further purification.

reactant | (E)-2-(4,6difluoro-1-indanylidene)acetic Acid | 0.026 mol, 5.49 g | FC1=C2CC/C(/C2=CC(=C1)F)=C\C(=O)O | C11H8F2O2
reactant | oxalyl chloride | 0.052 mol, 6.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | (E)-2-(4,6-difluoro-1-indanylidene)acetyl Chloride | FC1=C2CC/C(/C2=CC(=C1)F)=C\C(=O)Cl | C11H7ClF2O
